US08957080B2
Into a 500 mL, 4-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of sodium hydride (6.8 g, 170.00 mmol, 1.70 equiv, 60%) in N,N-dimethylformamide (200 mL). A solution of 1-fluoro-4-nitrobenzene (14.1 g, 99.93 mmol, 1.00 equiv) in N,N-dimethylformamide (50 mL) was added dropwise with stirring at 0° C. in 15 min. The resulting solution was stirred for 2 h at room temperature. CuCl (10 g, 101.01 mmol, 1.00 equiv) was added and a solution of 2,3-difluorophenol (15.6 g, 119.91 mmol, 1.20 equiv) in N,N-dimethylformamide (50 mL) was added dropwise with stirring. The resulting solution was allowed to react, with stirring, for an additional 12 h while the temperature was maintained at 100° C. in an oil bath. The resulting solution was extracted with ether and the organic layers combined. The organic layers was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:8) to give 21.2 g (84%) of 1,2-difluoro-3-(4-nitrophenoxy)benzene as a brown solid.

reactant | sodium hydride | 170.00 mmol, 6.8 g, 1.70 equiv | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 99.93 mmol, 14.1 g, 1.00 equiv | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2,3-difluorophenol | 119.91 mmol, 15.6 g, 1.20 equiv | FC1=C(C=CC=C1F)O | C6H4F2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | CuCl | 101.01 mmol, 10 g, 1.00 equiv | Cl[Cu]
product | 1,2-difluoro-3-(4-nitrophenoxy)benzene | 21.2 g, 84% | FC1=C(C(=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])F | C12H7F2NO3
